US04960776
1-(1-Methylethyl)-3-azetidinamine, dihydrochloride.
The hydrochloride salt of 1-isopropyl-3-azetidinol (168 g; 1 mole) was partitioned between dilute sodium hydroxide and 700 ml of benzene. The benzene solution was dried over anhydrous sodium sulfate and concentrated to one half volume. The volume was made back to 700 ml with dry benzene and 110 g (1.1 mole) of triethylamine added. To this was added dropwise 115 g (1 mole) of methanesulfonyl chloride while cooling with an ice bath. The mixture was stirred at room temperature for one hour and filtered. The filter cake was washed twice with 100 ml of benzene and all the benzene filtrates combined. The benzene filtrate was extracted with 300 ml of 4N hydrochloric acid followed by 100 ml of water. The aqueous extracts were combined and the pH adjusted to 7 with sodium hydroxide. The solution was treated with 65 g (1 mole) of sodium azide and heated to reflux for 20 hr and cooled to room temperature with an ice bath. A solution (673 ml) of 23% aqueous ammonium sulfide was added while cooling with an ice bath to 30° C. and the solution was stirred at room temperature for 6 hr. The solution was continuously extracted with chloroform for 35 hr. (The condenser became plugged overnight and the pressure caused a joint to open and an unknown amount of material was lost). The chloroform was concentrated and distilled. Yield 18.5 g, b.p. 70°-80° C./20-30 mm. Two grams of the distillate was dissolved in ethanol and treated with ethereal hydrogen chloride. The resulting crystals were recrystallized from ethanol, yield of title compound from the 2 g sample was 1.35 g, m.p. 167°-170° C.

reactant | 1-isopropyl-3-azetidinol | 1 mole, 168 g | C(C)(C)N1CC(C1)O | C6H13NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | triethylamine | 1.1 mole, 110 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1 mole, 115 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 1 mole, 65 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium sulfide | 673 ml | [NH4+]=S
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 700 ml | C1=CC=CC=C1 | C6H6
product | 1-(1-Methylethyl)-3-azetidinamine, dihydrochloride | Cl.Cl.CC(C)N1CC(C1)N | InChI=1S/C6H14N2.2ClH/c1-5(2)8-3-6(7)4-8;;/h5-6H,3-4,7H2,1-2H3;2*1H
